US04448773
N-(1'-Methoxycarbonyl-ethyl)-N-methoxyacetyl-2,6-dimethyl-3-(3',5'-dichlorophenylcarbamoylmethyl)-aniline
16.2 g of N-(1'-methoxycarbonyl-ethyl)-2,6-dimethyl-3-(3',5'-dichlorophenylcarbamoylmethyl)-aniline and 3.2 g of pyridine were placed into 120 ml of toluene; and within 15 minutes were added 4.7 g of methoxyacetic acid chloride, dissolved in 30 ml of toluene. After the exothermic reaction had subsided, stirring was maintained for 4 hours at room temperature, and the reaction suspension was then filtered with suction. The yellow filtrate was washed with water, dried over sodium sulfate, and concentrated in a rotary evaporator. The solid residue was digested with ether, and the white crystals were filtered off with suction; m.p. 126°-128° C.

reactant | N-(1'-methoxycarbonyl-ethyl)-2,6-dimethyl-3-(3',5'-dichlorophenylcarbamoylmethyl)-aniline | 16.2 g | COC(=O)C(C)NC1=C(C(=CC=C1C)CC(NC1=CC(=CC(=C1)Cl)Cl)=O)C | C20H22Cl2N2O3
reactant | pyridine | 3.2 g | N1=CC=CC=C1 | C5H5N
reactant | methoxyacetic acid chloride | 4.7 g | COCC(=O)Cl | C3H5ClO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1'-Methoxycarbonyl-ethyl)-N-methoxyacetyl-2,6-dimethyl-3-(3',5'-dichlorophenylcarbamoylmethyl)-aniline | COC(=O)C(C)N(C1=C(C(=CC=C1C)CC(NC1=CC(=CC(=C1)Cl)Cl)=O)C)C(COC)=O | C23H26Cl2N2O5
